US07829560B2
To a stirred room temperature solution of 3-fluoro-N-(4-hex-1-enyl-naphthalen-1-yl)-5-morpholin-4-yl-benzamide (2.7 g, 6.25 mmol) THF (15 ml) and water (5 ml) is added osmium tetroxide (2.5% in t-butanol) (100 μl) and sodium periodate (6 g) in portions over 30 minutes. After 1.5 hours, the mixture is diluted with ethyl acetate (200 ml) and washed with water (2×100 ml). The organic layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluting with 25-30% ethyl acetate in hexanes to give 3-fluoro-N-(4-formyl-naphthalen-1-yl)-5-morpholin-4-yl-benzamide as a tan powder (1.072 g). Mp: 204-5° C. 1H NMR 400 MHz (CDCl3) δ 10.3 (s, 1H), 9.41 (d, 1H, J=8.8 Hz), 8.47 (d, 2H, J=7.6 Hz), 8.02 (d, 1H, J=8 Hz), 7.92 (d, 1H, J=8.4 Hz), 7.65-7.76 (m, 2H), 7.31 (s, 1H), 7.05 (d, 1H, J=8 Hz), 6.79 (d, 1H, J=11.6 Hz), 3.88 (t, 4H, J=5.2 Hz), 3.27 (t, 4H, J=5.2 Hz). MS: 379 (M+1).

reactant | 3-fluoro-N-(4-hex-1-enyl-naphthalen-1-yl)-5-morpholin-4-yl-benzamide | 6.25 mmol, 15 ml, 2.7 g | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)C=CCCCC)C=C(C1)N1CCOCC1 | C27H29FN2O2
reactant | water | 5 ml | O | H2O
reactant | sodium periodate | 6 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | 100 μl | [Os](=O)(=O)(=O)=O
product | 3-fluoro-N-(4-formyl-naphthalen-1-yl)-5-morpholin-4-yl-benzamide | 1.072 g | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)C=O)C=C(C1)N1CCOCC1 | C22H19FN2O3
